US06982348B2
To a solution of zinc chloride (3.04 g, 22.3 mmol) in diethyl ether (70 ml) was added sodium borohydride (1.69 g, 44.6 mmol), and the mixture was stirred at room temperature for 30 min. Insoluble material was filtered off and a solution of ethyl 3-(4-fluorophenyl)-2-((4-methyl-3-((1,1,2,2-tetrafluoroethyl)oxy)phenyl)methyl)-3-oxopropionate (4.8 g, 11.2 mmol) in diethyl ether (50 ml) was added to the filtrate. The mixture was stirred at room temperature for 30 min. and 1N hydrochloric acid was added to the reaction solution under ice-cooling to quench the reaction. Then, water (100 ml) was added and the mixture was extracted with ethyl acetate (200 ml×2). The extract was washed with water and saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1) to give ethyl (2RS,3RS)-3-(4-fluorophenyl)-3-hydroxy-2-((4-methyl-3-((1,1,2,2-tetrafluoroethyl)oxy)phenyl)methyl)propionate (4.69 g, 97%) as a colorless oil.

reactant | sodium borohydride | 44.6 mmol, 1.69 g | [BH4-].[Na+]
reactant | ethyl 3-(4-fluorophenyl)-2-((4-methyl-3-((1,1,2,2-tetrafluoroethyl)oxy)phenyl)methyl)-3-oxopropionate | 11.2 mmol, 4.8 g | FC1=CC=C(C=C1)C(C(C(=O)OCC)CC1=CC(=C(C=C1)C)OC(C(F)F)(F)F)=O | C21H19F5O4
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | water | 100 ml | O | H2O
solvent | diethyl ether | 70 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
catalyst | zinc chloride | 22.3 mmol, 3.04 g | [Cl-].[Zn+2].[Cl-]
product | ethyl (2RS,3RS)-3-(4-fluorophenyl)-3-hydroxy-2-((4-methyl-3-((1,1,2,2-tetrafluoroethyl)oxy)phenyl)methyl)propionate | 4.69 g, 97% | FC1=CC=C(C=C1)C(C(C(=O)OCC)CC1=CC(=C(C=C1)C)OC(C(F)F)(F)F)O | C21H21F5O4
